US05990142
5E 2-(Hydroxymethyl)benzofuran-5-carbonitrile
A solution of 5-bromo-2-benzofuranylmethanol (1.19 g, 5.24 mmol), copper (I) cyanide (0.470 g, 5.25 mmol) and N-methylpyrrolidinone (15 ml) was left under stirring at 200° C. for 3.5 h, then was poured onto a solution of ethylenediamine (6 g) in water (80 ml) and extracted with ethyl acetate (3×75 ml). The organic phase was dried and the solvents were evaporated off under reduced pressure. The resulting crude was purified by chromatography through a silica gel column, eluting with n-hexane:ethyl acetate mixtures of increasing polarity, thereby obtaining 0.671 g of title product as a yellow solid with melting point 113-114° C. (74% yield).

reactant | 5-bromo-2-benzofuranylmethanol | 5.24 mmol, 1.19 g | BrC=1C=CC2=C(C=C(O2)CO)C1 | C9H7BrO2
reactant | copper (I) cyanide | 5.25 mmol, 0.470 g | [Cu]C#N
reactant | N-methylpyrrolidinone | 15 ml | CN1C(CCC1)=O | C5H9NO
reactant | ethylenediamine | 6 g | C(CN)N | C2H8N2
solvent | water | 80 ml | O | H2O
product | 2-(Hydroxymethyl)benzofuran-5-carbonitrile | 0.671 g, 74% yield | OCC=1OC2=C(C1)C=C(C=C2)C#N | C10H7NO2
